US07855297B2
7-Methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.47 g) and (4-bromophenyl)[(4-dimethylaminophenyl)methyl]-amine (0.70 g) as starting materials were reacted and treated in the same manner as in Example 12. The obtained solid was dissolved in ethyl acetate (4 mL). Thereto was added 4 mol/L-HCl/ethyl acetate (0.35 mL), and the precipitated solid was collected by filtration to give N-(4-bromophenyl)-N-[(4-dimethylaminophenyl)methyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.65 g). melting point: 104-113° C.

reactant | 7-Methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.47 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | (4-bromophenyl)[(4-dimethylaminophenyl)methyl]-amine | 0.70 g | BrC1=CC=C(C=C1)NCC1=CC=C(C=C1)N(C)C | C15H17BrN2
reactant | HCl ethyl acetate | 0.35 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-bromophenyl)-N-[(4-dimethylaminophenyl)methyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.65 g | Cl.BrC1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CC1=CC=C(C=C1)N(C)C | InChI=1S/C27H29BrN2O2.ClH/c1-29(2)22-12-7-19(8-13-22)18-30(23-14-10-21(28)11-15-23)27(31)25-6-4-5-20-9-16-24(32-3)17-26(20)25;/h7-17,25H,4-6,18H2,1-3H3;1H
